US04535086
20.6 g of 3,3,6,6-tetramethyl-α-(phenylsulphonyl)-1-cyclohexen-1-acetic acid are dissolved in 800 ml of ethanol and the solution is treated at 0° C. with 107.1 g of sodium amalgam (5%). The mixture is stirred at room temperature for 4.5 hours, the solution is decanted off from the mercury, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried, evaporated and filtered over silica gel (eluting agent hexane/ether 1:1). After recrystallization from hexane, there are obtained 10.2 g of 3,3,6,6-tetramethyl-1-cyclohexen-1-acetic acid in the form of colorless crystals, m.p. 50°-54° C.

reactant | 3,3,6,6-tetramethyl-α-(phenylsulphonyl)-1-cyclohexen-1-acetic acid | 20.6 g | CC1(C=C(C(CC1)(C)C)C(C(=O)O)S(=O)(=O)C1=CC=CC=C1)C | C18H24O4S
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | sodium amalgam | 107.1 g | [Na].[Hg]
product | 3,3,6,6-tetramethyl-1-cyclohexen-1-acetic acid | 10.2 g | CC1(C=C(C(CC1)(C)C)CC(=O)O)C | C12H20O2
